US06069157
5-Amino-4-(3-chlorophenyl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a rapidly stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (0.335 g) in toluene (2 ml) containing tetrakis(triphenylphosphine)palladium(0) (0.03 g) was added saturated aqueous sodium hydrogen carbonate solution (1 ml) and a solution of 3-chlorophenylboronic acid (0.240 g) in ethanol (1 ml). The mixture wAas heated under reflux for 4 hours, cooled and then poured into ether (25 ml) and water (25 ml). The organic layer was separated, washed with water (25 ml), brine (25 ml) and then dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel (40 g) eluted with dichloromethane. Combination and evaporation of suitable fractions gave a white solid (70 mg) which was further purified by HPLC. Combination and processing of suitable fractions gave the title compound as a white crystalline solid, m.p. 161-2° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 0.335 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | sodium hydrogen carbonate | 1 ml | C(O)([O-])=O.[Na+]
reactant | 3-chlorophenylboronic acid | 0.240 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 ml | O | H2O
product | 5-Amino-4-(3-chlorophenyl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | 70 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CC(=CC=C1)Cl | C17H8Cl3F3N4
